US07728030B2
1-(4-Fluorophenyl)-5-iodo-6-methylindazole (62b)
5-Iodo-6-methylindazole (1.3 g, 5.0 mmol), p-fluorobenzeneboronic acid (1.4 g, 10 mmol), anhydrous copper(II) acetate (1.4 g, 7.5 mmol) and pyridine (0.80 mL, 10 mmol) were stirred in dichloromethane (30 mL) overnight. Additional portions of p-fluorobenzeneboronic acid (0.47 g, 3.4 mmol), anhydrous copper(II) acetate (0.45 g, 2.5 mmol) and pyridine (0.27 mL, 3.4 mmol) were added. The mixture was filtered through celite after stirring for an additional night. The filtrate was concentrated and purified by column chromatography (SiO2, toluene) to give the subtitle compound (0.90 g, 51%) as a light orange powder.

reactant | 5-Iodo-6-methylindazole | 5.0 mmol, 1.3 g | IC=1C=C2C=NNC2=CC1C | C8H7IN2
reactant | p-fluorobenzeneboronic acid | 10 mmol, 1.4 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | pyridine | 10 mmol, 0.80 mL | N1=CC=CC=C1 | C5H5N
reactant | p-fluorobenzeneboronic acid | 3.4 mmol, 0.47 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | pyridine | 3.4 mmol, 0.27 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 7.5 mmol, 1.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 2.5 mmol, 0.45 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-Fluorophenyl)-5-iodo-6-methylindazole | 0.90 g, 51% | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)I | C14H10FIN2
